US05157041
0.275 g (0.473 mmol) of N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester was taken up in 10 ml of isopropanol and hydrogenated for 18 hours over 50 mg of 5% palladium-on-carbon in the presence of 0.18 g (0.94 mmol) of toluene-4-sulphonic acid. The catalyst was filtered off and the filtrate was evaporated. The resulting solid was dissolved in 10 ml of dichloromethane and the solution was cooled in an ice-bath. 50 mg (0.49 mmol) of acetic anhydride were added, followed by 0.10 g (0.99 mmol) of triethylamine and 0.2 ml of pyridine. The mixture was stirred at room temperature for 1 hour. The solvent was removed by evaporation and the residue was partitioned between ethyl acetate and water. The organic phase was washed with 5% sodium bicarbonate solution and with saturated sodium chloride solution and then dried over anhydrous sodium sulphate. The solvent was removed by evaporation to give 35 mg of N-[3(S)-[(N-acetyl-L-asparaginyl)amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester; Rf (System E): 0.28; MS: m/e 491 [M+H]+.

reactant | N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 0.473 mmol, 0.275 g | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)O)=O | C31H42N4O7
reactant | toluene-4-sulphonic acid | 0.94 mmol, 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | 0.49 mmol, 50 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.99 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
catalyst | palladium-on-carbon | 50 mg | [Pd] | Pd
solvent | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
product | N-[3(S)-[(N-acetyl-L-asparaginyl)amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 35 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(C)=O)CC(N)=O)=O)O)=O | C25H38N4O6
